US08580146B2
3-(4-Propylphenyl)bromopropane (s4) (14.0 g), toluene (100 ml) and triphenylphosphine (31.5 g) were placed in a reaction vessel under an atmosphere of nitrogen, and the mixture was heated to reflux for 5 hours. After the reaction mixture had been cooled to 25° C., the deposits were filtered, and the unreacted material was removed by washing with toluene three times. The resulting colorless solids were dried to give 3-(4-propylphenyl)propyltriphenyl phosphonium bromide (s5) (30.0 g). The yield based on the compound (s4) was 99.1%.

reactant | 3-(4-Propylphenyl)bromopropane | 14.0 g | C(CC)C1=CC=C(C=C1)CCCBr | C12H17Br
reactant | triphenylphosphine | 31.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-propylphenyl)propyltriphenyl phosphonium bromide | 30.0 g | [Br-].C(CC)C1=CC=C(C=C1)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C30H32P.BrH/c1-2-13-26-21-23-27(24-22-26)14-12-25-31(28-15-6-3-7-16-28,29-17-8-4-9-18-29)30-19-10-5-11-20-30;/h3-11,15-24H,2,12-14,25H2,1H3;1H/q+1;/p-1
